US09034850B2
To a solution of 2-(tert-butyl-dimethyl-silanyloxy)-2-phenyl-ethanol (85 mg, 0.337 mmol) in dichloromethane (2 mL) were added triethylamine (61 μl, 0.44 mmol) and methanesulfonyl chloride (27 μl, 0.35 mmol) in the order, followed by stirring at room temperature for 20 min. The solution was washed with an aqueous saturated sodium bicarbonate solution to separate an organic layer. The organic layer was dried over sodium sulfate and filtrated. The filtrate was concentrated and dried for 30 min in a vacuum to give methanesulfonic acid (R)-2-(tert-butyl-dimethyl-silanyloxy)-2-phenyl-ethyl ester. Methanesulfonic acid (R)-2-(tert-butyl-dimethyl-silanyloxy)-2-phenyl-ethyl ester, 1-(2-fluoro-6-trifluoromethyl-benzyl)-6-methyl-5-[4-(5-trifluoromethyl-furan-2-ylmethyl)-piperazin-1-yl]-1H-pyrimidine-2,4-dione (5-3) (60 mg, 0.112 mmol) and potassium carbonate (77 mg, 0.560 mmol) were dissolved at 70° C. for 12 hrs in DMF (1 ml) in a nitrogen atmosphere with stirring. The solution was cooled to room temperature, washed with an aqueous saturated sodium bicarbonate solution and concentrated. The residue was purified using silica gel chromatography (eluent: hexane/ethyl acetate, 5/1) and dried in a vacuum to afford 83 mg of the compound as a white solid (yield 97%). 1H NMR (300 MHz, CDCl3) δ −0.23 (3H, s), −0.11 (3H, s), 0.80 (9H, s), 2.25 (2H, m), 2.33 (3H, s), 2.47 (2H, m), 2.80 (2H, m), 3.50-3.70 (2H, m), 3.62 (2H, s), 3.83 (1H, dd), 4.36 (1H, dd), 5.13 (1H, dd), 5.26-5.50 (2H, m), 6.30 (1H, d), 6.73 (1H, m), 7.16-7.43 (7H, m), 7.53 (1H, d)

reactant | 2-(tert-butyl-dimethyl-silanyloxy)-2-phenyl-ethanol | 0.337 mmol, 85 mg | C(C)(C)(C)[Si](OC(CO)C1=CC=CC=C1)(C)C | C14H24O2Si
reactant | triethylamine | 0.44 mmol, 61 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.35 mmol, 27 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | methanesulfonic acid (R)-2-(tert-butyl-dimethyl-silanyloxy)-2-phenyl-ethyl ester | C(C)(C)(C)[Si](O[C@@H](COS(=O)(=O)C)C1=CC=CC=C1)(C)C | C15H26O4SSi
